US09328118B2
2,6-Dichloro-9-methyl-9H-purine (5.6 g), Na2CO3 (11.7 g), water (16.8 mL), and tetrakis(triphenylphosphine)palladium (0) (1.6 g) were added to a solution of tert-butyl 4-(2-{[5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3-(trifluoromethyl)pyridin-2-yl]oxy}ethyl)piperidine-1-carboxylate (13.8 g) in dioxane (112 mL) at room temperature in an argon atmosphere, and the mixture was stirred at an internal temperature of 85° C. for 5 hours. After the reaction mixture was cooled to room temperature, water (700 mL) was added thereto, and the mixture was stirred for 3 hours. The precipitate was collected by filtration, then, washed with water and diisopropyl ether, and dried. The obtained solid was purified by silica gel column chromatography (Hex:EtOAc:CHCl3=1:1:1), whereby tert-butyl 4-(2-{[5-(2-chloro-9-methyl-9H-purin-6-yl)-3-(trifluoromethyl)pyridin-2-yl]oxy}ethyl)piperidine-1-carboxylate (9.5 g) was obtained as a solid.

reactant | 2,6-Dichloro-9-methyl-9H-purine | 5.6 g | ClC1=NC(=C2N=CN(C2=N1)C)Cl | C6H4Cl2N4
reactant | Na2CO3 | 11.7 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 16.8 mL | O | H2O
reactant | tert-butyl 4-(2-{[5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3-(trifluoromethyl)pyridin-2-yl]oxy}ethyl)piperidine-1-carboxylate | 13.8 g | CC1(OB(OC1(C)C)C=1C=C(C(=NC1)OCCC1CCN(CC1)C(=O)OC(C)(C)C)C(F)(F)F)C | C24H36BF3N2O5
reactant | water | 700 mL | O | H2O
solvent | dioxane | 112 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 1.6 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl 4-(2-{[5-(2-chloro-9-methyl-9H-purin-6-yl)-3-(trifluoromethyl)pyridin-2-yl]oxy}ethyl)piperidine-1-carboxylate | 9.5 g | ClC1=NC(=C2N=CN(C2=N1)C)C=1C=C(C(=NC1)OCCC1CCN(CC1)C(=O)OC(C)(C)C)C(F)(F)F | C24H28ClF3N6O3
